* source PROIECT_CEF2
R_R9         N82536 N82336 100
Q_Q2         N81946 N82156 N82330 BC846B 
X_D1         N82730 0 LED PARAMS: IS=1.7603e-027 RS=2  BV=5 IBV=10e-6         
R_R20         N98034 N98024 4.7k
R_R27         N826300 N824820 150
X_Q8         N81558 N81768 N81636 awbmjd31c PARAMS:                            
+                 
Q_Q3         N81936 N98325 N82336 BC846B 
R_R10         0 N82766 2.2k
Q_Q5         N82536 N82730 N82766 BC846B 
R_R25         N822560 N820880 10
Q_Q7         N81936 N97333 0 BC846B 
R_R4         N817840 N81558 2k
R_R7         N82536 N82330 100
X_R19         N825941 N98325 N98024 POT PARAMS: SET=0 VALUE=5k
Q_Q6         N81558 N82156 N82188 BC846B 
Q_Q4         N81936 N81946 N817300 BC856B 
R_R26         N824820 N822560 10
X_DZ1         0 N82156 awbbzx84c5v6 PARAMS:               
R_R8         N817300 N81558 510
R_R24         N820880 N818700 100
R_R22         0 N89953 2.2k
R_R28         0 N826300 150
R_R11         N101727 N82188 910
R_R6         N817060 N81558 510
X_D2         N81654 N89953 LED PARAMS: IS=1.7603e-027 RS=2  BV=5 IBV=10e-6     
+     
R_R23         N818700 N81654 100
Q_Q10         N81936 N81636 N81654 BC846B 
Q_Q1         N81946 N81946 N817060 BC856B 
Q_Q9         N81558 N81936 N81768 BC846B 
R_R15         N81654 N89468 1
R_R16         N81654 N89468 4.7
R_R1         N925970 N81558 510
R_R12         N97333 N101727 10
R_R21         0 N98034 330
R_R17         N115983 N81654 910
R_R18         N825941 N115983 680
R_R2         N987480 N925970 680
R_R3         N82730 N987480 820
R_R5         N82156 N817840 680
R_R14         N89468 N81636 0.47
R_R13         0 N97333 100
V_V1         N81558 0 26
I_I1         N81654 0 DC 0Adc  
